US07456194B2
A4.1a: 1-(3-Bromophenyl)ethanol
Commercially available 3-bromobenzaldehyde (5.0 g, 27 mmol) was dissolved in anhydrous dichloromethane (200 mL) under a dry nitrogen atmosphere and cooled in a dry ice/acetone bath to −78° C. Trimethyl aluminum 2M solution in toluene (16.2 mL, 32 mmol) was added dropwise. After 0.5 h the reaction mixture was allowed to warm to room temperature during which time the cloudiness of the reaction resolved to a clear yellow solution which then proceeded to a colorless solution. After stirring for 1 h at room temperature the reaction mixture was cooled in an ice bath and 1N HCl (100 mL) was added dropwise. The reaction mixture was transferred to a separatory funnel and the organic layer was isolated, dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. The crude product was purified by silica gel flash column chromatography eluting with 1:1 Ethyl acetate/hexane to provide 5.4 g (99%) of A4.1a as a colorless oil. LCMS (M+H−OH)+=183, 185

reactant | 3-bromobenzaldehyde | 27 mmol, 5.0 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | Trimethyl aluminum | 2M | C[Al](C)C
reactant | toluene | 32 mmol, 16.2 mL | C1(=CC=CC=C1)C | C7H8
reactant | HCl | 1N, 100 mL | Cl | ClH
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | H−OH | O | H2O
product | 1-(3-Bromophenyl)ethanol | BrC=1C=C(C=CC1)C(C)O | C8H9BrO
